US08563723B2
In 20 mL DCM, 2.32 g N-[(4,4-Dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-3-methoxy-benzenesulfonamide was dissolved, and 13.7 mL of a 1M solution of BBr3 in DCM was added. The mixture was stirred over weekend at room temperature. A 5% aqueous NaHCO3 solution was added to quench the mixture that contained a sticky precipitate; after quenching, this was dissolved by gently heating the mixture. The organic layer was separated and the aqueous layer was extracted once more with DCM. The combined organic layers were dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (DCM/MeOH 99:1→98:2) to yield 1.24 g (56%) N-[(4,4-Dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-3-hydroxybenzenesulfonamide as of a beige powder. 1HNMR (400 MHz, CDCl3) δ 1.09 (t, J=7 Hz, 3H), 1.14 (s, 6H), 3.40-3.50 (m, 2H), 3.58 (br.s., 2H), 6.72 (s, 1H), 6.79 (br.s., 1H), 6.97-7.03 (m, 1H), 7.25-7.34 (m, 2H), 7.46 (br d, J=8 Hz, 1H), 7.66 (br s, 1H).

reactant | N-[(4,4-Dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-3-methoxy-benzenesulfonamide | 2.32 g | CC1(C=NN(C1)C(=NS(=O)(=O)C1=CC(=CC=C1)OC)NCC)C | C15H22N4O3S
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[(4,4-Dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-3-hydroxybenzenesulfonamide | 1.24 g, 56% | CC1(C=NN(C1)C(=NS(=O)(=O)C1=CC(=CC=C1)O)NCC)C | C14H20N4O3S
